US06369075B1
7-(2-Cyclohexylmethoxy-benzoylamino)-quinoline-3-carboxylic acid ethyl ester
The title compound was prepared following the procedure of Example 134 but using 2-cyclohexylmethoxybenzoic acid and 7-aminoquinoline-3-carboxylic acid ethyl ester in the place of 2-benzyloxy-3-methoxybenzoic add and 7-amino-quinoline-3-carboxylic acid (di-pyridin-2-yl-methyl)-amide, respectively.

reactant | 2-cyclohexylmethoxybenzoic acid | C1(CCCCC1)COC1=C(C(=O)O)C=CC=C1 | C14H18O3
reactant | 7-aminoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)N | C12H12N2O2
reactant | 7-amino-quinoline-3-carboxylic acid (di-pyridin-2-yl-methyl)-amide | N1=C(C=CC=C1)C(C1=NC=CC=C1)NC(=O)C=1C=NC2=CC(=CC=C2C1)N | C21H17N5O
product | 7-(2-Cyclohexylmethoxy-benzoylamino)-quinoline-3-carboxylic acid ethyl ester | 58% yield | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)NC(C1=C(C=CC=C1)OCC1CCCCC1)=O | C26H28N2O4
